US05334599
c. Z-(2-Fluorophenyl)(8-Methyl-8-Azabicyclo[3.2.1]Octan-3-Yl)Methanone Oxime Hydrochloride
A mixture of (2-fluorophenyl)(8-methyl-8-azabicyclo[3.2.1 ]octan-3-yl)methanone (29.5 g), hydroxylmine hydrochloride (16.5 g) and ammonium acetate (27.5 g) were heated in 80 ml of refluxing ethanol-water (3:1 mixture) for 19 hours. The mixture was and the precipitated product was collected (25.2g).

reactant | (2-fluorophenyl)(8-methyl-8-azabicyclo[3.2.1 ]octan-3-yl)methanone | 29.5 g | FC1=C(C=CC=C1)C(=O)C1CC2CCC(C1)N2C | C15H18FNO
reactant | hydrochloride | 16.5 g | Cl | ClH
reactant | ammonium acetate | 27.5 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol water | 80 ml | C(C)O.O
product | Z-(2-Fluorophenyl)(8-Methyl-8-Azabicyclo[3.2.1]Octan-3-Yl)Methanone Oxime Hydrochloride | Cl.FC1=C(C=CC=C1)\C(=N/O)\C1CC2CCC(C1)N2C | InChI=1S/C15H19FN2O.ClH/c1-18-11-6-7-12(18)9-10(8-11)15(17-19)13-4-2-3-5-14(13)16;/h2-5,10-12,19H,6-9H2,1H3;1H/b17-15-;
